US06294536B1
(3) 1-Benzylidene-2-{4-[4-(5,6-dichloronicotinoyl)benzyl]-3,5-dichlorophenyl}hydrazine
The title compound was prepared as yellow crystals at yield of 98.2%, in a similar manner as in Reference Example 13, by the reaction of 5-[4-(4-amino-2,6-dichlorobenzyl)benzoyl]-2,3-dichloropyridine, NaNO2, SnCl2 and benzaldehyde.

reactant | 5-[4-(4-amino-2,6-dichlorobenzyl)benzoyl]-2,3-dichloropyridine | NC1=CC(=C(CC2=CC=C(C(=O)C=3C=C(C(=NC3)Cl)Cl)C=C2)C(=C1)Cl)Cl | C19H12Cl4N2O
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | SnCl2 | Cl[Sn]Cl
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | 1-Benzylidene-2-{4-[4-(5,6-dichloronicotinoyl)benzyl]-3,5-dichlorophenyl}hydrazine | yield of 98.2% | C(C1=CC=CC=C1)=NNC1=CC(=C(C(=C1)Cl)CC1=CC=C(C=C1)C(C1=CN=C(C(=C1)Cl)Cl)=O)Cl | C26H17Cl4N3O
